US07855297B2
By the reaction and treatment in the same manner as in Preparation Example 18 using 4-benzyloxyindan-1-carboxylic acid (0.8 g) and 2,4-dimethoxyaniline (0.5 g) as starting materials, 4-benzyloxy-N-(2,4-dimethoxyphenyl) indan-1-carboxamide (0.96 g) was obtained. melting point: 129.7° C.

reactant | 4-benzyloxyindan-1-carboxylic acid | 0.8 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)C(=O)O | C17H16O3
reactant | 2,4-dimethoxyaniline | 0.5 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | 4-benzyloxy-N-(2,4-dimethoxyphenyl) indan-1-carboxamide | 0.96 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)C(=O)NC1=C(C=C(C=C1)OC)OC | C25H25NO4
